US06589984B1
After slowly adding a solution of 3-morpholinophenol (5.0 g) in THF (100 ml) to a 3 M diethyl ether solution (10 ml) of ethylmagnesium bromide, the mixture was stirred at 30° C. for 1.5 hours. Paraformaldehyde (3.0 g) and Et3N (3.0 g) were added to the reaction solution and the mixture was stirred at 80° C. for 4 hours. After cooling, a 6 N hydrochloric acid aqueous solution (20 ml) was added, the mixture was stirred for an hour, and then the organic layer and aqueous layer were separated and the aqueous layer was rendered weakly alkaline prior to extraction with AcOEt. The organic layers were combined and dried with MgSO4, and then filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=3/1) to obtain 2-hydroxy-4-morpholinobenzaldehyde.

reactant | 3-morpholinophenol | 5.0 g | O1CCN(CC1)C=1C=C(C=CC1)O | C10H13NO2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | Paraformaldehyde | 3.0 g | C=O | CH2O
reactant | hydrochloric acid | 6 N, 20 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | Et3N | 3.0 g | CCN(CC)CC | C6H15N
solvent | diethyl ether | 3 M, 10 ml | C(C)OCC | C4H10O
product | 2-hydroxy-4-morpholinobenzaldehyde | OC1=C(C=O)C=CC(=C1)N1CCOCC1 | C11H13NO3
